US06677368B2
To a solution of 4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one (56.8 mg, 0.25 mmol) and 5-formyl-2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester (80.3 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 5-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester as a yellow solid (60.9 mg, 53%).

reactant | 4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 56.8 mg | FC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O | C14H10FNO
reactant | 5-formyl-2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 0.26 mmol, 80.3 mg | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=O)C | C17H27N3O3
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 5-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 60.9 mg, 53% | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=C1C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O)C | C31H35FN4O3
